US05079260
A solution of 2-methylfluorene (6 g, 33.2 mmol) in 100 ml of THF at -78° C. was charged with butyl lithium (2.18 g, 34.0 mmol). The reaction mixture was stirred for 15 min then CO2 gaseous (5 g, 113.6 mmol) was introduced via a cannula over a period of 15 min at -78° C. The reaction mixture was warmed up to room temperature and stirred for additional 2 hr until colorless. The reaction mixture was diluted with 250 mL of water and 100 mL of ethyl acetate, the layers were separated, the aqueous phase was washed with ethyl acetate (3×50 mL) and acidified to pH 2 with conc. HCl. The precipitate was filtered off, washed with water and dried to afford 6.1 g (81.9%) of 2-methyl-9-fluorenecarboxylic acid.

reactant | 2-methylfluorene | 33.2 mmol, 6 g | CC1=CC=2CC3=CC=CC=C3C2C=C1 | C14H12
reactant | butyl lithium | 34.0 mmol, 2.18 g | C(CCC)[Li]
reactant | CO2 | 113.6 mmol, 5 g | C(=O)=O | CO2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 250 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-methyl-9-fluorenecarboxylic acid | 6.1 g, 81.9% | CC1=CC=2C(C3=CC=CC=C3C2C=C1)C(=O)O | C15H12O2
